US04772600
N-[3-[(3,4-Dichlorobenzoyl)amino]-2-pyridinyl]glycine ethyl ester
A solution of N-(3-nitro-2-pyridinyl)glycine ethyl ester (22.5 g, 0.1 mole) in 250 ml of tetrahydrofuran was hydrogenated in a small Parr bottle over 5% palladium on carbon (2.5 g) at room temperature for 1 hr. The reaction mixture was dried over magnesium sulfate and filtered through a Celite pad. Under nitrogen atmosphere, 3,4-dichlorobenzoyl chloride (20.95 g, 0.1 mole) and triethylamine (11.1 g, 0.11 mole) were added dropwise simultaneously to the above stirred filtrate at room temperature. After stirring overnight, the reaction mixture was filtered and the filtrate was evaporated to dryness. The residue was treated with acetone and water to obtain a crystalline solid, which was refrigerated overnight. The solid was collected by filtration, washed with water, and dried under high vacuum at 50° C. overnight (37.1 g). A 4-g sample was recrystallized from acetone/water and dried under high vacuum at 50° C. for 2 days to give 2.66 g of title compound, mp 137°-38° C.

reactant | N-(3-nitro-2-pyridinyl)glycine ethyl ester | 0.1 mole, 22.5 g | C(C)OC(CNC1=NC=CC=C1[N+](=O)[O-])=O | C9H11N3O4
reactant | 3,4-dichlorobenzoyl chloride | 0.1 mole, 20.95 g | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
reactant | triethylamine | 0.11 mole, 11.1 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 2.5 g | [Pd] | Pd
product | N-[3-[(3,4-Dichlorobenzoyl)amino]-2-pyridinyl]glycine ethyl ester | 2.66 g | C(C)OC(CNC1=NC=CC=C1NC(C1=CC(=C(C=C1)Cl)Cl)=O)=O | C16H15Cl2N3O3
